US04877779
1-Trimethylsilylhex-1-yn-6-ol.
1-Trimethylsilyl[6-(oxacyclohex-2-yloxy)]hex-1-yne (76 g, 300 mmol) and pyridinium p-toluenesulfonate (0.05 g) were heated at reflux in methanol (200 mL). After cooling the solvent was removed under reduced pressure, the residue was dissolved in methylene chloride and washed with water, brine and dried (MgSO4). Evaporation of the solvent under reduced pressure afforded a residue which was distilled (b.p. 96° C., 3 mm Hg) to give 37.6 g (64%) of the product.

reactant | 1-Trimethylsilyl[6-(oxacyclohex-2-yloxy)]hex-1-yne | 300 mmol, 76 g | C[Si](C#CCCCCOC1OCCCC1)(C)C | C14H26O2Si
reactant | pyridinium p-toluenesulfonate | 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methanol | 200 mL | CO | CH4O
product | 1-Trimethylsilylhex-1-yn-6-ol | 37.6 g, 64% | C[Si](C#CCCCCO)(C)C | C9H18OSi
